US08859732B2
2-Methoxy-4-[2′,2′,2′-tris(octadecyloxymethyl)ethoxy]benzaldoxime (40 mg, 0.038 mmol) was dissolved in THF (1 ml), diisobutylaluminum hydride (DIBAL)-toluene solution (127 μl, 0.13 mmol) was added dropwise, and the mixture was stirred for 2.5 hr. 1N Hydrochloric acid (2 ml) was added dropwise to the reaction mixture to quench the reaction, and the mixture was extracted with chloroform (2 ml) and washed with 10% aqueous sodium carbonate solution (1 ml). The solvent was evaporated, and acetonitrile (1 ml) was added to the residue. The precipitate was collected by filtration, and purified by silica gel chromatography to give 2-methoxy-4-[2′,2′,2′-tris(octadecyloxymethyl)ethoxy]benzylamine (43 mg, 0.041 mmol, 85%).

reactant | 2-Methoxy-4-[2′,2′,2′-tris(octadecyloxymethyl)ethoxy]benzaldoxime | 0.038 mmol, 40 mg | COC1=C(C=NO)C=CC(=C1)OCC(COCCCCCCCCCCCCCCCCCC)(COCCCCCCCCCCCCCCCCCC)COCCCCCCCCCCCCCCCCCC | C67H127NO6
reactant | Hydrochloric acid | 1N, 2 ml | Cl | ClH
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 2-methoxy-4-[2′,2′,2′-tris(octadecyloxymethyl)ethoxy]benzylamine | 0.041 mmol, 43 mg, 85% | COC1=C(CN)C=CC(=C1)OCC(COCCCCCCCCCCCCCCCCCC)(COCCCCCCCCCCCCCCCCCC)COCCCCCCCCCCCCCCCCCC | C67H129NO5
